US07842694B2
3-{[3-Chloro-5-(morpholin-4-ylcarbonyl)pyridin-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
Cesium carbonate (489 mg, 1.5 mmol) was added to a solution of 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide (152 mg, 0.5 mmol) and 4-[(5,6-dichloropyridin-3-yl)carbonyl]morpholine (143 mg, 0.55 mmol) in acetonitrile (5 mL) and the mixture heated at 120° C. in a microwave reactor for 2 hours. The acetonitrile was evaporated in vacuo and the residue partitioned between water (25 mL) and ethyl acetate (50 mL). The organic layer was washed with brine, dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with ethyl acetate, to give the desired compound (203 mg). 1H NMR δ (CDCl3): 2.05-2.2 (m, 2H), 3.4-3.7 (m, 8H), 3.7 (s, 3H), 3.85 (m, 2H), 3.95 (d, 2H), 4.9 (m, 1H), 6.7 (d, 1H), 6.8 (d, 1H), 7.15 (d, 1H), 7.25 (d, 2H), 7.85 (d, 1H), 8.0 (d, 1H), 8.95 (s, 1H); m/z 512 (M+H)+.

reactant | Cesium carbonate | 1.5 mmol, 489 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 0.5 mmol, 152 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H]1COCC1 | C15H17N3O4
reactant | 4-[(5,6-dichloropyridin-3-yl)carbonyl]morpholine | 0.55 mmol, 143 mg | ClC=1C=C(C=NC1Cl)C(=O)N1CCOCC1 | C10H10Cl2N2O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-{[3-Chloro-5-(morpholin-4-ylcarbonyl)pyridin-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 203 mg | ClC=1C(=NC=C(C1)C(=O)N1CCOCC1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H]1COCC1 | C25H26ClN5O6
